US05798362
A solution of 7.92 g of 3,3-diphenylpropionic acid in 10 ml of anhydrous DMF is dropped, in about 15' and at room temperature, in a suspension of 5.8 g of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline, 8.42 g of cyclohexylcarbodiimide 97% and 0.37 g of 4-dimethylaminopiridine in 20 ml of anhydrous DMF. The clear olution so obtained is stirred at the same temperature for 5 h and a precipitated is formed (dicyclohexylurea) which is filtered away. The solvent is evaporated to dryness under vacuum and the resulting vetrous residue is filtered after treating with 500 ml Et2O. The crude compound is purified by flash chromatography on SiO2 column eluting with CHCl3 /MeOH 100:2. The fractions containing the pure base are pooled, the solvents evaporated to dryness, the residue suspended in warm EtOH and the suspension is treated with HCl in EtOH about 4N up to complete solution.

reactant | 3,3-diphenylpropionic acid | 7.92 g | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 5.8 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
reactant | cyclohexylcarbodiimide | 8.42 g | C1(CCCCC1)N=C=N | C7H12N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopiridine | 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
